US06645953B2
To a suspension of lithium aluminium hydride (4.5 g, 120 mmol) in diethyl ether (700 mL) was added, dropwise 16β-(tert-butyldimethylsilyloxy)cholest-5-en-3β-yl benzoate (8.1 g, 12 mmol) in diethyl ether (50 mL). After stirring at room temperature for 15 minutes and at 40° C. for 0.5 hour, water was added. The inorganic impurities were removed by filtration through Celite, and after removal of solvent under reduced pressure the residue was purified by flash chromatography to give 16β-(tert-butyldimethylsilyloxy)cholest-5-en-3β-ol (6.7 g).

reactant | lithium aluminium hydride | 120 mmol, 4.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 16β-(tert-butyldimethylsilyloxy)cholest-5-en-3β-yl benzoate | 12 mmol, 8.1 g | C(C1=CC=CC=C1)(=O)O[C@@H]1CC2=CC[C@H]3[C@@H]4C[C@@H]([C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)O[Si](C)(C)C(C)(C)C | C40H64O3Si
reactant | water | O | H2O
solvent | diethyl ether | 700 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 16β-(tert-butyldimethylsilyloxy)cholest-5-en-3β-ol | 6.7 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@H]([C@@H](CCCC(C)C)C)[C@]2(CC[C@@H]3[C@]4(CC[C@@H](CC4=CC[C@H]3[C@@H]2C1)O)C)C | C33H60O2Si
